US07601716B2
{5-[1-(2,5-Difluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]-pyridin-2-yl}morpholin-4-yl-methanone
5-[1-(2,5-Difluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]-pyridine-2-carboxylic acid (32 mg) was reacted with morpholine as in General Procedure 8 to give the title compound as a yellow solid (26% yield). M.p. 111-113° C., LCMS: m/z=451.92 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 3.47-3.53 (m, 2H), 3.67-3.76 (m, 8H), 3.77-3.85 (m, 2H), 4.50 (s, 2H), 5.09 (s, 1H), 6.71 (d J=1.5 Hz, 1H), 6.92-7.04 (m, 2H), 7.05-7.12 (m, 1H), 7.69-7.74 (m, 2H), 7.78-7.83 (m, 2H), 8.60 (d, J=2.3 Hz, 1H).

reactant | 5-[1-(2,5-Difluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]-pyridine-2-carboxylic acid | 32 mg | FC1=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=CC(=NC3)C(=O)O)C=C(C=C1)F | C20H16F2N4O2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | {5-[1-(2,5-Difluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]-pyridin-2-yl}morpholin-4-yl-methanone | 26% yield | FC1=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=CC(=NC3)C(=O)N3CCOCC3)C=C(C=C1)F | C24H23F2N5O2
